US07902187B2
4-amino-3-(6-chloro-8-oxo-9-(tetrahydro-2H-pyran-4-yl)-8,9-dihydro-7H-purin-2-ylamino)benzonitrile.
Pale yellow solid. 86% yield on 0.49 mmol scale. In a typical procedure, to 3-(6-chloro-8-oxo-9-(tetrahydro-2H-pyran-4-yl)-8,9-dihydro-7H-purin-2-ylamino)-4-nitrobenzonitrile (0.49 mmol) was added ethyl acetate (20 mL) and Pt catalyst, 0.5% sulfur (Alfa Aesar) (95.5 mg 5% on activated carbon, 4.8 mg, 0.025 mmol, 0.05 equiv.) with stirring at room temperature under hydrogen (1 atm) for 18 h (HPLC monitoring). Filtration of the reaction mixture over a small plug of celite, thorough washing with ethyl acetate and methanol, evaporation of solvent and drying provided the desired product, which was used in the next step without further purification. Yield quantitative on 2.95 mmol scale. The catalyst was washed with 12-15 portions of 100 mL of a 1/1 (v) solution of methylene chloride/isopropanol to recover desired product. MS (EI) m/z 386.1 (MH)+.

reactant | 3-(6-chloro-8-oxo-9-(tetrahydro-2H-pyran-4-yl)-8,9-dihydro-7H-purin-2-ylamino)-4-nitrobenzonitrile | 0.49 mmol | ClC1=C2NC(N(C2=NC(=N1)NC=1C=C(C#N)C=CC1[N+](=O)[O-])C1CCOCC1)=O | C17H14ClN7O4
reactant | sulfur | 0.025 mmol, 95.5 mg, 0.05 equiv. | [S] | S
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-amino-3-(6-chloro-8-oxo-9-(tetrahydro-2H-pyran-4-yl)-8,9-dihydro-7H-purin-2-ylamino)benzonitrile | 86% yield | NC1=C(C=C(C#N)C=C1)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)Cl | C17H16ClN7O2
